US07939467B2
Step 2: 4-[3-Isobutylamino-2-methyl-4-(methylsulfonyl)benzoyl]-1-ethyl-5-hydroxypyrazole
Under nitrogen, 0.43 g (1.5 mmol) of 3-isobutylamino-2-methyl-4-(methyl-sulfonyl)benzoic acid, 0.22 g (2.0 mmol) of 1-ethyl-5-hydroxypyrazole and 0.35 g (1.8 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were dissolved in dry acetonitrile. The mixture was stirred at RT for 1 day and allowed to stand for 2 days. 0.42 ml (3.0 mmol) of NEt3, 0.08 ml (0.6 mmol) of Me3SiCN and a spatula tip of KCN were added, and the mixture was stirred at RT for 2 days. The solvent was removed, and the residue was taken up in CH2Cl2 and 10% strength H2SO4. The organic phase was separated off and dried over MgSO4, and the solvent was removed under reduced pressure. The residue was crystallized from acetonitrile. This gave 0.16 g of a red solid of a purity of 96%.

reactant | 3-isobutylamino-2-methyl-4-(methyl-sulfonyl)benzoic acid | 1.5 mmol, 0.43 g | C(C(C)C)NC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C13H19NO4S
reactant | 1-ethyl-5-hydroxypyrazole | 2.0 mmol, 0.22 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.8 mmol, 0.35 g | Cl.CN(CCCN=C=NCC)C
reactant | NEt3 | 3.0 mmol, 0.42 ml | CCN(CC)CC | C6H15N
reactant | Me3SiCN | 0.6 mmol, 0.08 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | KCN | [C-]#N.[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-Isobutylamino-2-methyl-4-(methylsulfonyl)benzoyl]-1-ethyl-5-hydroxypyrazole | C(C(C)C)NC=1C(=C(C(=O)C=2C=NN(C2O)CC)C=CC1S(=O)(=O)C)C | C18H25N3O4S
